US06037472
A mixture of 4-methyl-2-methylenepentanoic acid (5.0 g) and thioacetic acid (25 mL) was heated at 95° C. under argon for 3 days. The excess thioacetic acid was evaporated and the residual oil was dissolved in ethyl acetate (40 mL) and extracted with saturated NaHCO3 (3×40 mL). The combined NaHCO3 extracts were combined and acidified at 0° C. to pH 2 with 1M HCl. The aqueous layer was extracted with CHCl2 (3×40 mL), the combined organic phases were dried (MgSO4) and evaporated to give 3.0 g of 4-methyl-2-acetylthiomethyl-pentanoic acid; 1H NMR (80 MHz, CDCl3) δ 0.95 (d, J=8.0, 6H), 1.20-1.90 (m, 4H), 2.35 (s, 3H), 2.50-3.20 (m, 3H), 6.7 (br s, 1H).

reactant | 4-methyl-2-methylenepentanoic acid | 5.0 g | CC(CC(C(=O)O)=C)C | C7H12O2
reactant | thioacetic acid | 25 mL | C(C)(=S)O | C2H4OS
product | 4-methyl-2-acetylthiomethyl-pentanoic acid | 3.0 g | CC(CC(C(=O)O)CSC(C)=O)C | C9H16O3S
